US04444773
2-chloro-7-chloromethyl-5H-thiazolo[3,2-a]pyrimidine-5-one, (6.07 g), prepared according to Example 5, was reacted with sulfuryl chloride (3.8 g) in dichloroethane (150 ml) under stirring at room temperature for 4 hours. The reaction mixture was treated with 5% aqueous NaHCO3 solution then the organic phase was separated and evaporated in vacuo to dryness. Crystallization from methanol gave 5.6 g of 2,6-dichloro-7-chloromethyl-5H-thiazolo[3,2-a]pyrimidine-5-one, m.p. 117°-119° C. dec., which was reacted with triphenylphosphine (5.95 g) in acetonitrile (115 ml) at the reflux temperature for 20 hours. The solution was evaporated in vacuo to dryness and the residue was purified with isopropyl ether to give 10.4 g of [2,6-dichloro-5H-thiazolo[3,2-a]pyrimidine-5-one-7-yl]-methyl-triphenylphosphonium chloride, which was suspended in dimethylsulfoxide (50 ml) and treated with potassium tert-butoxide (2.41 g) dissolved in dimethylsulfoxide (45 ml) at room temperature.

reactant | 2-chloro-7-chloromethyl-5H-thiazolo[3,2-a]pyrimidine-5-one | 6.07 g | ClC1=CN2C(=NC(=CC2=O)CCl)S1 | C7H4Cl2N2OS
reactant | sulfuryl chloride | 3.8 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 150 ml | ClC(C)Cl | C2H4Cl2
product | 2,6-dichloro-7-chloromethyl-5H-thiazolo[3,2-a]pyrimidine-5-one | 5.6 g | ClC1=CN2C(=NC(=C(C2=O)Cl)CCl)S1 | C7H3Cl3N2OS
